US05998433
a) Synthesis of 6-[4-(1-phenylcyclopropyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridine
To a solution of 1.209 g (7.575 mmol) of 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride, 1.80 g (7.58 mmol) of 4-(1-phenylcyclopropyl)benzoic acid and 4.22 ml (30.3 mmol) of triethylamine in 50 ml of N,N-dimethylformamide, 1.38 ml (9.09 mmol) of diethyl cyanophosphonate was added dropwise, followed by overnight stirring at room temperature. This mixture was poured into water and extracted with diethyl ether 3 times. The combined organic layer was dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=6/1 to 3/1) to yield the desired product.

reactant | 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | 7.575 mmol, 1.209 g | Cl.O1C=CC2=C1CNCC2
reactant | 4-(1-phenylcyclopropyl)benzoic acid | 7.58 mmol, 1.80 g | C1(=CC=CC=C1)C1(CC1)C1=CC=C(C(=O)O)C=C1 | C16H14O2
reactant | triethylamine | 30.3 mmol, 4.22 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 9.09 mmol, 1.38 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-[4-(1-phenylcyclopropyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | C1(=CC=CC=C1)C1(CC1)C1=CC=C(C(=O)N2CC3=C(CC2)C=CO3)C=C1 | C23H21NO2
